US05124308
Into a 100 ml round-bottomed flask, equipped with a magnetic stirrer and heating bath, were placed 2.4 g (0.02 mol) of dithiooxamide, 1.8 g (0.02 mol) of aniline, and 40 ml of methanol. The solution was stirred and heated at 35° C. for 30 minutes. The reactive amine, dodecylamine (3.7 g, 0.02 mol), was then added, and the solution was stirred for an additional 3 hours at 35° C. The crude reaction mixture was cooled to 25° C., and the acidity was adjusted to a pH of about 2 by the addition of 37% aqueous HCl. The mixture was filtered, washed with a small amount of methanol, and dried to afford 1.5 g of N,N'-didodecyldithiooxamide. Water (40 ml) was added to the filtrate with stirring, which was continued for 10 minutes. The precipitate was collected by filtration and washed with a minimum amount of a 50:50 mixture of water and methanol. The product was dried to afford 3.2 g (55%) of N-dodecyldithiooxamide.

reactant | dithiooxamide | 0.02 mol, 2.4 g | NC(=S)C(=S)N | C2H4N2S2
reactant | aniline | 0.02 mol, 1.8 g | NC1=CC=CC=C1 | C6H7N
reactant | dodecylamine | 0.02 mol, 3.7 g | C(CCCCCCCCCCC)N | C12H27N
reactant | HCl | Cl | ClH
solvent | methanol | 40 ml | CO | CH4O
product | N,N'-didodecyldithiooxamide | 1.5 g | C(CCCCCCCCCCC)NC(=S)C(=S)NCCCCCCCCCCCC | C26H52N2S2
